US07132564B2
The process was carried out in a high-viscosity reactor model CRP 2,5 Batch from List AG. The high-viscosity reactor is a machine having two horizontal corotating mixing shafts. Kneading devices which intermesh and thus ensure rapid and homogeneous mixing are located on the shafts. In addition, the machine has a discharge screw by means of which the product can be conveyed out of the reaction chamber. It can be operated continuously or batchwise. The reactor has a free volume of about 2.5 l. The reaction chamber of the machine can be heated. Volatile constituents can be taken off via a vent. 1336 g of diethyl adipate and 472 g of sodium ethoxide were placed in the high-viscosity reactor. After start-up of the kneader and commencement of mixing of the starting materials a viscous mass was immediately formed. While kneading slowly, the temperature was slowly increased to 120° C. A vacuum of 10 mbar was slowly built up. The temperature of 120° C. was reached after about 15 minutes. Slow kneading was then continued at a temperature of 120° C. for 30 minutes until a pulverized white solid had been obtained. The powder formed was discharged by means of a transport screw and subsequently hydrolysed using half-strength sulphuric acid. Phase separation and distillation at 120° C./10 mbar gave 1021 g of ethyl cyclopentanone-2-carboxylate, viz. about 99% of theory. Diethyl adipate could no longer be detected.

reactant | diethyl adipate | 1336 g | C(CCCCC(=O)OCC)(=O)OCC | C10H18O4
reactant | sodium ethoxide | 472 g | [O-]CC.[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | ethyl cyclopentanone-2-carboxylate | 1021 g | CCOC(=O)C1CCCC1=O | C8H12O3
